US05998690
Next, in the U.S. Pat. No. 4,620,947, magnesium oxide or magnesium hydroxide powder is first added into the borate solution to form magnesium borate, into which cement is then added and the mixture is agitated. Finally, before colloids are formed calcium oxide or calcium hydroxide is added for solidification. Following the conditions used in this patent, the concentration of boric acid in the liquid waste is about 10 wt % and weight of the lime, cement, magnesium hydroxide and calcium oxide added is several times the weight of the boric acid. Hence, the volume efficiency is very low and the compressive strength of the solidified bodies produced is also very low, the highest reaching only 22.5 kg/cm2.

reactant | magnesium oxide | [O-2].[Mg+2]
reactant | magnesium hydroxide | [OH-].[Mg+2].[OH-]
reactant | borate | B([O-])([O-])[O-]
product | magnesium borate | B([O-])([O-])[O-].[Mg+2].B([O-])([O-])[O-].[Mg+2].[Mg+2] | InChI=1S/2BO3.3Mg/c2*2-1(3)4;;;/q2*-3;3*+2
